US04923984
A solution of 4.435 g (18.506 mM) of methyl 4-(2-amino-5-chlorophenyl)-4-oxo-2-butenoate in 118 ml of dioxane is hydrogenated in the presence of 887 mg of 10% Pd-C under ordinaly pressure at room temperature. The mixture is concentrated after removal of the catalyst. The resulting residue is chromatographed on a column of silica gel (220 g), eluting with toluene-ethyl acetate (49:1-30:1 v/v) to give 3.877 g (Yield: 86.7%) of methyl 4-(2-amino-5-chlorophenyl)-4-oxobutyrate. This is recrystallized from CH2Cl2 -Et2O-n-hexane to give light yellow scaly prisms melting at 78°-79° C.

reactant | methyl 4-(2-amino-5-chlorophenyl)-4-oxo-2-butenoate | 18.506 mM, 4.435 g | NC1=C(C=C(C=C1)Cl)C(C=CC(=O)OC)=O | C11H10ClNO3
solvent | dioxane | 118 ml | O1CCOCC1 | C4H8O2
catalyst | Pd-C | 887 mg | [Pd] | Pd
product | methyl 4-(2-amino-5-chlorophenyl)-4-oxobutyrate | 3.877 g, Yield: 86.7% | NC1=C(C=C(C=C1)Cl)C(CCC(=O)OC)=O | C11H12ClNO3
